US05185437
The compound of Example 6, 6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine, (0.322 g, 1.1 mmoles) was dissolved in 50 mL acetonitrile. 4-Dimethylaminopyridine (10.5 mg, 0.1 mmoles, Aldrich Chemical Co., Madison, Wis.) and triethylamine (620 μl, 4.4 mmoles, Aldrich Chemical Co., Madison, Wis.) were added and the flask was chilled in an ice bath. Pivalic anhydride (450 μl, 2.2 mmoles, Aldrich Chemical Co., Madison, Wis.) was dissolved in 10 mL acetonitrile and added dropwise to the flask over a period of 15 minutes. The reaction was stirred at room temperature for 24 hours. Additional aliquots of triethylamine (620 μl, 4.4 mmoles) and pivaloyl chloride (250 μl, 2.0 mmoles, Aldrich Chemical Co., Madison, Wis.) were added at 24 hours, 48 hours, 72 hours, and 96 hours. After 120 hours of stirring at room temperature, additional pivaloyl chloride (500 μl, 4 mmoles) and triethylamine (1.24 mL, 8.8 mmoles) were added and the reaction was brought to reflux for 16 hours. The reaction was quenched with methanol and solvents were removed in vacuo. The residue was suspended in 25 mL ethyl acetate and salts were removed by filtration. Solvent was removed in vacuo and the remaining material was chromatographed on a Chromatotron 2 mm silica gel plate with a hexane:acetone mixture (7:3). The product containing fraction was further purified by elution from a silica gel column (2.5×40 cm) with dichloromethane:methanol (98:2). Lyophilization afforded 0.218 g of 6-(cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-((pivaloyloxy)methyl)-2-furyl]-9H-purine as an oil (52% yield).

reactant | 6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine | 1.1 mmoles, 0.322 g | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)CO | C14H19N5O2
reactant | triethylamine | 4.4 mmoles, 620 μl | C(C)N(CC)CC | C6H15N
reactant | Pivalic anhydride | 2.2 mmoles, 450 μl | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | triethylamine | 4.4 mmoles, 620 μl | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 2.0 mmoles, 250 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | pivaloyl chloride | 4 mmoles, 500 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | triethylamine | 8.8 mmoles, 1.24 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | 4-Dimethylaminopyridine | 0.1 mmoles, 10.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 6-(cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-((pivaloyloxy)methyl)-2-furyl]-9H-purine | 0.218 g, 52% yield | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)COC(C(C)(C)C)=O | C19H27N5O3
